US07713994B2
(Z)-6-Bromo-4-((3-(2-oxopyrrolidin-1-yl)propylamino)methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione (70.5 mg, 0.25 mmole), dimethylformamide (2 mL) and 1-(3-aminopropyl)pyrrolidin-2-one (35.6 mg, 0.25 mmole) is stirred at room temperature for one hour. The reaction mixture is diluted with ether, filtered and washed with fresh ether and dried to give a beige solid, 63.5 mg, (65% yield) MS (ES+): 392.2, (M+H).

reactant | 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione | 0.25 mmole, 70.5 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 1-(3-aminopropyl)pyrrolidin-2-one | 0.25 mmole, 35.6 mg | NCCCN1C(CCC1)=O | C7H14N2O
solvent | ether | CCOCC | C4H10O
product | (Z)-6-Bromo-4-((3-(2-oxopyrrolidin-1-yl)propylamino)methylene)isoquinoline-1,3(2H,4H)-dione | 65% yield | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCCCN1C(CCC1)=O | C17H18BrN3O3
